US04101667
An amount of 2.2g of sodium hydroxide was dissolved in 30ml of diethylene glycol by application of heat and to the mixture was added 2.2g of 2-methoxy-9-cyano-10,11-dihydrodibenzo[b,f]thiepin and the resulting mixture was stirred at 200° C for 16 hours. After cooling, to the mixture was added water and the mixture was extracted with ethyl acetate. The equeous layer was acidified with conc. hydrochloric acid and extracted with ethyl acetate. This extract was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and freed of the solvent to obtain the residue. This residue was recrystallized from benzene to afford 1.1g (46%) of 2-hydroxy-9-carboxy-10,11-dihydrodibenzo[b,f]thiepin as brown crystals having a melting point of 210°-211° C.

reactant | sodium hydroxide | 2.2g | [OH-].[Na+]
reactant | 2-methoxy-9-cyano-10,11-dihydrodibenzo[b,f]thiepin | 2.2g | COC1=CC2=C(SC3=C(CC2)C(=CC=C3)C#N)C=C1 | C16H13NOS
reactant | water | O | H2O
solvent | diethylene glycol | 30ml | C(COCCO)O | C4H10O3
product | 2-hydroxy-9-carboxy-10,11-dihydrodibenzo[b,f]thiepin | 1.1g, 46% | OC1=CC2=C(SC3=C(CC2)C(=CC=C3)C(=O)O)C=C1 | C15H12O3S
